US04235902
Preparation of 2-Oximino-4-methyl-5-ethyltetrahydro-1,4-oxazin-3-one
A quantity of 33.7 g of potassium t-butoxide, 40.0 g of 4-methyl-5-ethyl-tetrahydro-1,4-oxazin-3-one, and 29.3 g of isobutyl nitrite were caused to react sequentially in 800 ml of anhydrous tetrahydrofuran in a manner similar to that described in Example III. Following a similar workup, 44.7 g of a thick oil were obtained which could not be induced to crystallize. Part (10 grams) was chromatographed on silica gel eluting the product band (3.0 grams) with acetone after unchanged starting material (5.4 grams) had been eluted with isopropyl ether/acetone mixtures. Trituration of the product fraction with ethyl acetate afforded pure oxime product, 2.9 g, mp. 168.5°-170.0°, equivalent to a total yield (in 44.7 g of crude product) of 13.0 grams.

reactant | potassium t-butoxide | 33.7 g | CC(C)([O-])C.[K+]
reactant | 4-methyl-5-ethyl-tetrahydro-1,4-oxazin-3-one | 40.0 g | CN1C(COCC1CC)=O | C7H13NO2
reactant | isobutyl nitrite | 29.3 g | N(=O)OCC(C)C | C4H9NO2
solvent | tetrahydrofuran | 800 ml | O1CCCC1 | C4H8O
product | 2-Oximino-4-methyl-5-ethyltetrahydro-1,4-oxazin-3-one | 44.7 g | N(O)=C1OCC(N(C1=O)C)CC | C7H12N2O3
